US07902401B2
To a solution of 2-amino-3-difluoromethoxy-N-(4-fluorobenzyl)propionamide (200 mg, 0.762 mmol) and triethylamine (293 mg, 2.9 mmol) in THF (5 mL), acetic hydride (93 mg, 0.915 mmol) was added. The reaction mixture was stirred at room temperature for three hours, diluted with ethyl acetate, and washed with water. The organic layer was concentrated with silica gel and purified by column chromatography with 50-100% ethyl acetate in hexanes. The product was triturated with diethyl ether to give 2-(acetylamino)-N-benzyl-3-(difluoromethoxy)propanamide (140 mg, 60.3%) as a white solid, MP: 130.8° C. 1H NMR (300 MHz, CDCl3): δ(ppm) 7.24 (dd, 2H), 7.03 (t, 2H), 6.73 (w, 1H), 6.41 (d, 1H), 6.24 (wt, 1H), 4.71 (m, 1H), 4.44 (d, 2H), 4.24 (dd, 1H), 4.01 (dd, 1H) and 2.05 (s, 3H).

reactant | 2-amino-3-difluoromethoxy-N-(4-fluorobenzyl)propionamide | 0.762 mmol, 200 mg | NC(C(=O)NCC1=CC=C(C=C1)F)COC(F)F | C11H13F3N2O2
reactant | triethylamine | 2.9 mmol, 293 mg | C(C)N(CC)CC | C6H15N
reactant | acetic hydride | 0.915 mmol, 93 mg | C(C)=O | C2H4O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(acetylamino)-N-benzyl-3-(difluoromethoxy)propanamide | 140 mg, 60.3% | C(C)(=O)NC(C(=O)NCC1=CC=CC=C1)COC(F)F | C13H16F2N2O3
